US06417366B2
Step (2): Preparation of 1-(3-quinolyl)-2-propen-1-ol t-butyl carbonate
To a solution of 2-iodo-3-quinoline carboxaldehyde (3 g, 10.6 mmol) in THF (25 ml) at −5° C., vinylmagnesium bromide (1 M solution, 10.8 ml, 10.8 mmol) was added. It was stirred at that temperature until the starting material disappears, which takes about one hour. N-butyllithium (8.5 ml, 2.5 M soln, 21.2 mmol) was added and the solution was stirred for another 25 min and then quenched with t-butanol (1.63 g, 22 mmol, only the C-2 anion is being quenched). Then a solution of di-tert-butyl dicarbonate (2.54 g, 11.6 mmol) was added and the solution was stirred for 2 h at −5° C. The reaction was then worked up with MTBE (60 ml) and 10% ammonium chloride solution (25 ml). The organic layer washed again with saturated NaCl solution and it was concentrated to an orange oil which crystallised on standing at 0° C. overnight. It was used as such for alkylation experiments. Yield=2.8 g (92.7%)

reactant | 2-iodo-3-quinoline carboxaldehyde | 10.6 mmol, 3 g | IC1=NC2=CC=CC=C2C=C1C=O | C10H6INO
reactant | vinylmagnesium bromide | 10.8 mmol, 1 M, 10.8 ml | C(=C)[Mg]Br
reactant | N-butyllithium | [Li+].CCC[CH2-]
reactant | di-tert-butyl dicarbonate | 11.6 mmol, 2.54 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | MTBE | 60 ml | CC(C)(C)OC | C5H12O
product | 1-(3-quinolyl)-2-propen-1-ol t-butyl carbonate | N1=CC(=CC2=CC=CC=C12)C(C=C)O.C(C)(C)(C)OC([O-])=O | InChI=1S/C12H11NO.C5H10O3/c1-2-12(14)10-7-9-5-3-4-6-11(9)13-8-10;1-5(2,3)8-4(6)7/h2-8,12,14H,1H2;1-3H3,(H,6,7)/p-1
